US06506799B1
STEP B (Synthesis of 6-Bromo-2,2-dimethyl-1-hydroxyhexane)
In a 1-L 3-neck round-bottomed flask fitted with condenser, dropping funnel pressure equalizer and magnetic stirrer were placed dry benzene (300 ml) and 6-bromo-2,2-dimethylhexanoate (40 g, 0.159 mol) under argon. To this solution, DIBAL (400 ml as a 1M solution in hexane) was added over 45 min at room temperature, via a syringe. During the addition, the temperature rose to ca. 50° C., and when the exothermic reaction ceased, the mixture was heated to 50˜60° C. for an additional 4 hrs. The reaction mixture was allowed to reach room temperature and stir overnight. The resulting mixture was treated with water (ca. 50 ml) under vigorous stirring, while cooling in an ice-bath. Diethyl ether (200 ml) was added to facilitate the stirring. The ice bath was removed when no more evolution of gas occurred. The reaction product, as a white sludge, was filtered through a fritted glass funnel and the filtrate was evaporated under vacuum. CHCl3 (ca. 300 ml) was added to the resulting residue and the resulting solution was washed with saturated aqueous NHCl4 (200 ml) and brine (200 ml), then dried (MgSO4). The solvent was evaporated under vacuum, to provide 27.30 g (82.2% yield) of the above-titled compound: 1H NMR CDCl3, δ (ppm): 3.38 (t, J=7.4 Hz, 2H), 3.50-3.40 (brs, 1H, OH), 3.22 (d, J=5.6 Hz, 2H), 1.85 (qv, J=7.4 Hz, 2H), 1.50-1.35 (m, 2H), 1.30-1.20 (m, 2H), 0.85 (s, 6H). 13C NMR CDCl3, δ (ppm): 71.4, 37.5, 34.9; 33.9, 33.4, 23.7, 22.4.

reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
reactant | 6-bromo-2,2-dimethylhexanoate | 0.159 mol, 40 g | BrCCCCC(C(=O)[O-])(C)C
reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | water | ca. 50 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | Diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 6-Bromo-2,2-dimethyl-1-hydroxyhexane | 27.30 g, 82.2% yield | BrCCCCC(CO)(C)C | C8H17BrO
